* AD8564 SPICE Macro-Model Typical Values
* Description: Amplifier
* Generic Desc: Quad 5nSec single supply comparator
* Developed by: TAM / ADSC 
* Revision History: 08/10/2012 - Updated to new header style
* 2.1 (11/1998)
* Copyright 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include: 
*
* END Notes
*
* Node assignments
*		non-inverting input
*		|	inverting input
*		|	|	positive supply
*		|	|	|	negative supply
*		|	|	|	|	ground
*		|	|	|	|	|	output
*		|	|	|	|	|	|
.SUBCKT AD8564	1	2	99	50	51	45
*
* INPUT STAGE
*
*
Q1  4  3 5 PIX
Q2  6  2 5 PIX
IBIAS 99 5 800E-6 
RC1 4 50 1E3
RC2 6 50 1E3
CL1 4  6 2.5E-12
CIN 1  2 3E-12
EOS 3  1 (4,6) 1E-3
*
* Reference Voltage
*
EREF 98 0 POLY(2) (99,0) (50,0) 0 0.5 0.5
RDUM 98 0 100E3
GSY  99 50 POLY(1) (99,50) 8E-3 -2.6E-3 
*
* Gain Stage Av=250 fp=100MHz
*
G1 98 20 (4,6) 0.25
R1 20 98 1E3
C1 20 98 10E-13
E3 97  0 (99,0) 1
E4 52  0 (51,0) 1
V1 97 21 DC 0.8
V2 22 52 DC 0.8
D1 20 21 DX
D2 22 20 DX
*
* Output Stage
*
Q3  99 41 46 NOX
Q4  47 42 51 NOX
RB1 43 41 200
RB2 40 42 200
CB1 99 41 10E-12
CB2 42 51 100E-12
RO1 46 44 1
D4  44 45 DX
RO2 47 45 500
EO1 97 43 (20,51) 1
EO2 40 52 (20,51) 1
*
* MODELS
*
.MODEL PIX PNP(BF=100,VAF=130,IS=1E-14)
.MODEL NOX NPN(BF=100,VAF=130,IS=1E-14)
.MODEL DX D(IS=1E-14,CJO=1E-15)
.ENDS AD8564


